### PR TITLE
feat: add lemmas relating `getMin`/`getMin?`/`getMin!`/`getMinD` and insertion to the empty (D)TreeMap/TreeSet

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds several lemmas that relate `getMin`/`getMin?`/`getMin!`/`getMinD` and insertion to the empty (D)TreeMap/TreeSet and their extensional variants.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 07e6b99e2ef5a294c06607dfe48975f2e26ec3ef --onto 8b575dcbf2a3b907044df2233a61b61003eeeb45`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-18 11:04:03)

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 1]
```diff
@@ -5247,6 +5247,94 @@ theorem isSome_minKey?_insert! [TransOrd α] (h : t.WF) {k v} :
     (t.insert! k v).minKey?.isSome := by
   simpa only [insert_eq_insert!] using isSome_minKey?_insert h
 
+theorem minKey_insert_of_isEmpty [TransOrd α] (h : t.WF) {k v} (he : t.isEmpty) :
+  (t.insert k v h.balanced).impl.minKey (isEmpty_insert h) = k := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean]:
```suggestion
    (t.insert k v h.balanced).impl.minKey (isEmpty_insert h) = k := by
```
